US03962224
p-Methoxybenzyl α-amino-diethylphosphonoacetate
A solution of 16.4 g. of p-methoxybenzyl N-benzylidene-α-amino-diethylphosphonoacetate in 100 ml. of ether is added over 30 minutes with stirring to a solution of 8.25 g. of p-toluenesulfonic acid monohydrate in 150 ml. of ether. To the reaction mixture is added 60 ml. of cyclohexane and the solvent layer is separated by decantation. The residue is washed with additional 2:1 ether-cyclohexane and is again decanted. The resulting oil is dissolved in about 25 ml. of 1 M dipotassium phosphate (final pH about 7), and this solution is extracted 4 times with methylene chloride. The methylene chloride solution is then dried with magnesium sulfate, filtered and evaporated to give 12 g. of p-methoxybenzyl α-amino-diethylaminophosphonoacetate as an orange oily product. ir (neat) μ: 2.95 (NH), 5.75 (C=O), and 9.75 (P--O); nmr (CDCl3) τ: 8.73 (t, 6, J=7Hz, CH2CH3), 8.12 (s, 2, NH2), 6.18 (s, 3, ArOCH3), 6.03 (d, 1, J=21Hz, CH), 5.86 (p, 4, J=7Hz, CH2CH3), 4.80 (s, 2, ArCH2), 3.11 (d, 2, J=8Hz, arH), and 2.64 (d, 2, J=8Hz, ArH).

reactant | p-methoxybenzyl N-benzylidene-α-amino-diethylphosphonoacetate | C(C1=CC=CC=C1)=NC(C(=O)OCC1=CC=C(C=C1)OC)P(=O)(OCC)OCC | C21H26NO6P
reactant | p-toluenesulfonic acid monohydrate | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | p-methoxybenzyl α-amino-diethylaminophosphonoacetate | NC(C(=O)OCC1=CC=C(C=C1)OC)P(=O)(ON(CC)CC)O | C14H23N2O6P
solvent | ether | CCOCC | C4H10O
product | p-Methoxybenzyl α-amino-diethylphosphonoacetate | NC(C(=O)OCC1=CC=C(C=C1)OC)P(=O)(OCC)OCC | C14H22NO6P
